US09238656B2
Synthesis of 4-{4-[7-((1R,2R,3S,4S)-3-Carbamoyl-bicyclo[2.2.1]hept-5-ene-2-ylamino)-6-chloro-3H-imidazo[4,5-b]pyridine-2-yl]-pyrazol-1-yl)-piperidine-1-carboxylic acid ethylamide (Compound LXII)
In a similar fashion as for the synthesis of Compound LXI, (1S,2S,3R,4R)-3-[6-Chloro-2-(1-piperidin-4-yl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide was reacted with ethyl isocyanate to afford the title compound as a white lyophilate (70%). 1H NMR (d-chloroform): 8.36 (d, J=8 Hz, 1H), 8.11 (s, 2H), 7.87 (s, 1H), 6.47 (m, 1H), 6.42 (m, 1H), 5.81 (br s, 1H), 5.45 (br s, 1H), 5.36 (m, 1H), 4.42 (m, 2H), 4.15 (m, 2H), 3.33 (m, 2H), 3.17 (s, 1H), 3.02 (m, 3H), 2.67 (d, J=9 Hz, 1H), 2.33 (d, J=9 Hz, 1H), 2.23 (m, 2H), 2.10 (m, 3H), 1.69 (d, J=8 Hz, 1H), 1.20 (t, J=9 Hz, 1H). MS: 524.21 (M+H). HPLC retention time: 1.96 minutes (G Method).

reactant | (1S,2S,3R,4R)-3-[6-Chloro-2-(1-piperidin-4-yl-1H-pyrazol-4-yl)-3H-imidazo[4,5-b]pyridine-7-ylamino]-bicyclo[2.2.1]hept-5-ene-2-carboxylic acid amide | ClC=1C(=C2C(=NC1)NC(=N2)C=2C=NN(C2)C2CCNCC2)N[C@H]2[C@H]([C@@H]1C=C[C@H]2C1)C(=O)N | C22H25ClN8O
reactant | ethyl isocyanate | C(C)N=C=O | C3H5NO
product | 4-{4-[7-((1R,2R,3S,4S)-3-Carbamoyl-bicyclo[2.2.1]hept-5-ene-2-ylamino)-6-chloro-3H-imidazo[4,5-b]pyridine-2-yl]-pyrazol-1-yl)-piperidine-1-carboxylic acid ethylamide | C(C)NC(=O)N1CCC(CC1)N1N=CC(=C1)C1=NC=2C(=NC=C(C2N[C@@H]2[C@H]3C=C[C@@H]([C@@H]2C(N)=O)C3)Cl)N1 | C25H30ClN9O2
